US08487108B2
Step 2. (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-(2-cyano-3-methylguanidino)ethoxy)methyl)piperidine-1-carboxylate
A 100 mL flask was charged with (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-((cyanoimino)(methylthio)methylamino)ethoxy)methyl)piperidine-1-carboxylate (2.2 g, 4.72 mmol) dissolved in 50 mL MeNH2/EtOH solution and stirred overnight. The mixture was concentrated in vacuo and used without any further purification.

reactant | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-((cyanoimino)(methylthio)methylamino)ethoxy)methyl)piperidine-1-carboxylate | 4.72 mmol, 2.2 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCNC(SC)=NC#N | C22H31ClN4O3S
reactant | MeNH2 EtOH | 50 mL | CN.CCO
product | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2-(2-cyano-3-methylguanidino)ethoxy)methyl)piperidine-1-carboxylate | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCNC(=NC#N)NC | C22H32ClN5O3
